US04093627
3-[(6-Methoxy-4-chromanylidene)amino]-2-oxazolidinone
A solution of 62 g (0.61 mole) of 3-amino-2-oxazolidone in 650 ml of benzene was treated with 15 drops of HCl (isopropanol) solution using mechanical stirring, and refluxed until all water was removed via a Dean-Stark trap. The solution was then treated with 107 g (0.60 mole) of 6-methoxy-4-chromanone and refluxed for 11.5 hr. A 9.6 ml portion of water (theory: 10.8 ml) was collected. The reaction mixture was stripped of benzene under the water pump. The residue was taken up in 200 ml of 1:1 isopropanol:ether, stored 24 hr at room temperature, refrigerated overnight and filtered. The resultant cream-colored solid was washed with 125 ml of isopropanol, ether, and dried. M.p. 54°-64°; yield: 115 g (73%).

reactant | 3-amino-2-oxazolidone | 0.61 mole, 62 g | NN1[CH-]OCC1=O
reactant | water | O | H2O
reactant | 6-methoxy-4-chromanone | 0.60 mole, 107 g | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
solvent | benzene | 650 ml | C1=CC=CC=C1 | C6H6
catalyst | HCl | 15 drops | Cl | ClH
product | 3-[(6-Methoxy-4-chromanylidene)amino]-2-oxazolidinone | COC=1C=C2C(CCOC2=CC1)=NN1C(OCC1)=O | C13H14N2O4
